US08349824B2
A mixture of hydroxylamine hydrochloride (20.7 g, 298 mmol) and N-ethyldiisopropylamine (23.1 g, 31.2 ml, 179 mmol) in ethanol (380 ml) is stirred for a few minutes at 25° C. The mixture is then added to 1-ethoxycarbonyl-3-(4-bromo-pyridin-2-yl)-thiourea (18.13 g, 59.6 mmol) and the resulting mixture is refluxed for 1 day. The solvent is evaporated to dryness and the residue triturated for 10 minutes with water (100 ml). The solid is collected by filtration, washed with water and dried affording 7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-amine (10 g, 78.8%) as a light yellow solid. mp.: 190-2° C. MS: m/z=212.9, 215.0 (M+H+).

reactant | hydroxylamine hydrochloride | 298 mmol, 20.7 g | Cl.NO
reactant | N-ethyldiisopropylamine | 179 mmol, 31.2 ml, 23.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-ethoxycarbonyl-3-(4-bromo-pyridin-2-yl)-thiourea | 59.6 mmol, 18.13 g | C(C)OC(=O)NC(=S)NC1=NC=CC(=C1)Br | C9H10BrN3O2S
solvent | ethanol | 380 ml | C(C)O | C2H6O
product | 7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 10 g, 78.8% | BrC1=CC=2N(C=C1)N=C(N2)N | C6H5BrN4
